US07622508B2
a. Preparation of 2-(4-trifluoromethylbenzylamino)ethanol
Following the method of Preparation 8, step a, 4-trifluoromethylbenzyl bromide (664 mg, 2.78 mmol) was heated with ethanolamine (1.02 g, 16.7 mmol) in ethanol (3 mL) at 75° C. overnight. The product was isolated to give the title intermediate as a yellowish oil (585 mg). (m/z): [M+H]+ calcd for C10H12F3NO 220.10; found 220.3. 1H NMR (CDCl3, 300 MHz) δ (ppm): 7.59 (d, J=7.8 Hz, 2H), 7.45 (d, J=7.8 Hz, 2H), 3.88 (s, 2H), 3.66-3.70 (m, 2H), 2.80-2.83 (m, 2H).

reactant | 4-trifluoromethylbenzyl bromide | 2.78 mmol, 664 mg | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | ethanolamine | 16.7 mmol, 1.02 g | C(O)CN | C2H7NO
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-(4-trifluoromethylbenzylamino)ethanol | 585 mg | FC(C1=CC=C(CNCCO)C=C1)(F)F | C10H12F3NO
